Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tylenol
 
Attending: ___.
 
Chief Complaint:
left sided weakness, numbness, and tingling 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old man with PMH homelessness, HTN, DM, Hep C, etoh 
abuse, who presents with left sided weakness, numbness, and 
tingling. Symptoms began a few weeks ago. Begins at the left 
midclavicular line, down the torso and includes his left arm and 
leg and spares his back and face. Patient has been 
intermittently hot and cold but no objective fevers. Also having 
diaphoresis and nausea. No chest pain, palpitations, SOB, cough, 
vomiting, diarrhea, red or black stools, or dysuria. He has been 
drinking a 12-pack of beer daily, last drink was yesterday 
morning (___).  
.  
In the ED initial vitals were 97.8, 54, 170/81, 20, 96% RA. 
Neuro was consulted and felt that symptoms do not neatly fit 
into any neat single lesion. They recommended outpatient ___ 
with the neuro urgent care clinic with possible EMG/NCS. Labs 
notable for new leukopenia and thrombocytopenia, trop 0.02 -> 
<0.01, etoh level 68. CT head neg for acute process. Patient was 
initially in ED obs with plan for stress test in the AM however 
patient started to withdrawal and required multiple doses of 
diazepam so is being admitted for etoh withdrawal. Patient also 
given ASA 325, folic acid 1mg, and thiamine 100mg. Vitals prior 
to transfer were 98.0, 65, 150/88, 16, 97% on RA.  
.  
On the floor patient feels tremulous and continues to have the 
numbness/weakness over his left side. Otherwise he has no 
complaints.  

 
Past Medical History:
- DMII  
- Hypertension  
- Hepatitis C  
- Alcohol dependence  
- Tobacco abuse  
- S/p hernia repair 
 
Social History:
___
Family History:
Mother died of breast cancer, father died from  stroke (unclear 
lesion location, circumstances, etc.)  

 
Physical Exam:
Admission exam
VITALS: 98.2, 147/90, 52, 18, 99% RA  
GENERAL: Disheveled dirty-appearing man, smells of alcohol  
HEENT: NCAT, PERRL, EOMI, no icterus, MMM, no teeth  
NECK: Supple, no carotid bruits, no JVD  
LUNGS: CTAB  
HEART: RRR, normal S1 S2, no MRG  
ABDOMEN: Soft, NT, ND, NABS, no organomegaly  
EXTREMITIES: WWP, no c/c/e  
SKIN: Dirt underneath fingernails and toenails, several 3-4 cm 
annular lesions with central clearing on extremities  
NEUROLOGIC: ___, speech wnl, CN II-XII intact, strength ___ in 
UE and ___, per neuro exam he has diminished pinprick in an area 
that begins at the left mid-clavicular line and extends to the 
left axillary line. No change in pinprick over the back. It also 
includes his left arm and leg. Diminished vibration sense at the 
ankle  
and toes bilaterally.  

Discharge exam
98.3 126/58 51 18 95%ra 
GENERAL: Disheveled caucasian male, NAD 
HEENT: NCAT, PERRL, EOMI, no icterus, MMM, no teeth  
NECK: Supple, no carotid bruits, no JVD  
LUNGS: CTAB  
HEART: RRR, normal S1 S2, no MRG  
ABDOMEN: Soft, NT, ND, NABS, no organomegaly  
EXTREMITIES: WWP, no c/c/e  
SKIN: Dirt underneath fingernails and toenails, several 3-4 cm 
annular lesions with central clearing on extremities  
NEUROLOGIC: ___, speech wnl, CN II-XII intact, strength ___ in 
UE and ___, some decreased vibratory sensation in lower 
extremities

 
Pertinent Results:
Admission labs
___ 12:30PM BLOOD WBC-3.1* RBC-4.36* Hgb-11.4* Hct-35.1* 
MCV-80*# MCH-26.1* MCHC-32.5 RDW-19.4* Plt ___
___ 12:30PM BLOOD Glucose-119* UreaN-7 Creat-0.8 Na-138 
K-3.4 Cl-97 HCO3-27 AnGap-17
___ 12:30PM BLOOD Calcium-8.4 Phos-2.4*# Mg-1.6
___ 12:30PM BLOOD ASA-NEG Ethanol-68* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NE

Cardiac labs
___ 12:30PM BLOOD cTropnT-0.02*
___ 09:20PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD cTropnT-<0.01

Discharge labs
___ 06:30AM BLOOD WBC-3.1* RBC-4.07* Hgb-10.5* Hct-33.4* 
MCV-82 MCH-25.9* MCHC-31.5 RDW-19.4* Plt ___
___ 06:30AM BLOOD Glucose-98 UreaN-14 Creat-0.9 Na-140 
K-3.7 Cl-104 HCO3-30 AnGap-10
___ 06:00AM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD Calcium-8.4 Phos-3.1 Mg-1.9

Studies
Head CT: No evidence of acute process.

 
Brief Hospital Course:
Mr ___ is a ___ with h/o homelessness, HTN, t2DM, HCV, etoh 
abuse, who presents with left sided weakness, numbness, and 
tingling. Found to have mildly elevated troponin, now ruled out 
for ACS, but subsequently developed etoh withdrawal.  
.  
# Left sided weakness/numbness: Located across torso and 
includes his left arm and leg and spares his back and face, 
which does not fit into any single lesion. He does have evidence 
of a distal stocking-like sensory small fiber neuropathy which 
could be ___ alcohol or diabetes. He also has left sided foot 
drop which could be a mononeuropathy secondary to trauma or 
metabolic conditions listed above. Neurology was consulted, and 
recommend ___ in ___ clinic for possible EMG testing. An 
appointment was arranged for him. Pt advised to quit alcohol 
(see below), though declined. 
.  
# ETOH withdrawal: h/o DT's and withdrawal seizures in the past. 
Given valium per CIWA scale, w/o evidence of severe withdrawal. 
Social work was consulted, and pt offered detox, rehab, housing 
resources. Pt declined all these resources, and expressed no 
desire to quit drinking EtOH at this time. He was given 
thiamine, folate, and MVI during this admission, but refused 
Rx's upon discharge.   
.  
# Elevated troponin: No known cardiac disease. Patient denies 
any chest pain and ekg w/o ischemic changes. Ruled out for ACS 
this admission. 
.  
# Pancytopenia: Possibly related to chronic etoh abuse. However, 
was normal in ___ be toxin related. Does not appear 
to have infection. Appointment was made for pt with his PCP.    
.  
# DM: Patient does not take any medications. Used HISS in house. 
PCP ___ made   
.  
# Hep C: Has never been treated. Outpatient hepatology ___ 
arranged.   
.  
# ?Ringworm: Several 3-4 cm annular lesions with central 
clearing on extremities c/w ringworm. We started ketoconazole 
cream, but pt declined a prescription upon discharge
.
 
Medications on Admission:
none  
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Neuropathy, likely related to diabetes or alcohol. Please stop 
drinking alcohol. 
- EtOH withdrawal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___, 

You were admitted for numbness, and for alcohol withdrawal. You 
were evaluated by our Neurologists, who want to see you as an 
outpatient. We have made an appointment for you below. 

For your alcohol withdrawal, you were given medications. We 
offered a detox stay, but you did not want this. If you change 
your mind and want detox, please let your doctors ___. 
 
Followup Instructions:
___